2167-03-18 06:54:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**Date range (1) 7862**] Overnight Events:
   - despite hyperventilation, continued met acidosis, renal c/s in
   progress, renal to discuss with attending re line placement
   - a line placed, following ABG Q4H
   - no urine output
   - CK trending downward, MB fraction negative
   - LFTs and lipases climbing
   Allergies:
   Cholestyramine
   ?erectile dysfc
   Niacin
   Hepatic toxicit
   Iodine; Iodine Containing
   Rash;
   Ciprofloxacin
   muscle weakness
   Last dose of Antibiotics:
   Infusions:
   Dopamine - 3 mcg/Kg/min
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 25 mcg/hour
   Vasopressin - 2.4 units/hour
   Insulin - Regular - 15 units/hour
   Norepinephrine - 0.3 mcg/Kg/min
   Other ICU medications:
   Midazolam (Versed) - [**2167-3-17**] 10:00 PM
   Fentanyl - [**2167-3-17**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-3-18**] 06:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.6
C (99.7
   HR: 61 (60 - 67) bpm
   BP: 113/44(63) {101/44(62) - 125/53(76)} mmHg
   RR: 25 (14 - 28) insp/min
   SpO2: 95%
   Heart rhythm: AV Paced
   Height: 69 Inch
    CVP: 342 (14 - 342)mmHg
   Total In:
                                                                  6,295 mL
                                                                  1,559 mL
   PO:
   TF:
   IVF:
                                                                    295 mL
                                                                  1,559 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      7 mL
   Urine:
                                                                      7 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  6,295 mL
                                                                  1,552 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 28
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 60%
   RSBI Deferred: FiO2 > 60%
   PIP: 22 cmH2O
   Plateau: 20 cmH2O
   Compliance: 26.7 cmH2O/mL
   SpO2: 95%
   ABG: 7.22/33/85.[**Numeric Identifier 128**]/13/-13
   Ve: 7.5 L/min
   PaO2 / FiO2: 142
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: bilaterally)
   Abdominal: Soft, Non-tender, hypoactive bowel sounds
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Responds to: Unresponsive, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   458 K/uL
   10.5 g/dL
   274 mg/dL
   7.0 mg/dL
   13 mEq/L
   4.7 mEq/L
   140 mg/dL
   104 mEq/L
   131 mEq/L
   31.5 %
   38.9 K/uL
        [image002.jpg]
                             [**2167-3-17**]  05:10 PM
                             [**2167-3-17**]  09:32 PM
                             [**2167-3-17**]  11:08 PM
                             [**2167-3-18**]  02:22 AM
                             [**2167-3-18**]  02:42 AM
                             [**2167-3-18**]  06:26 AM
   WBC
   32.5
   42.2
   38.9
   Hct
   30.2
   33.8
   31.5
   Plt
   344
   459
   458
   Cr
   6.9
   6.9
   7.0
   TropT
   0.06
   0.07
   TCO2
   13
   14
   14
   Glucose
   148
   205
   274
   Other labs: PT / PTT / INR:25.3/37.8/2.5, CK / CKMB /
   Troponin-T:851/15/0.07, ALT / AST:349/390, Alk Phos / T Bili:186/4.9,
   Amylase / Lipase:173/290, Differential-Neuts:96.1 %, Lymph:2.5 %,
   Mono:1.2 %, Eos:0.0 %, Fibrinogen:457 mg/dL, Lactic Acid:1.3 mmol/L,
   Albumin:2.7 g/dL, LDH:559 IU/L, Ca++:7.3 mg/dL, Mg++:2.7 mg/dL, PO4:7.5
   mg/dL
   Assessment and Plan
 81M with significant heart dz EF 30%, p/w septic shock, CAP PNA and
   multiorgan failure.
   .
   PLAN:
   ====
   Septic Shock/Hypotension: Pneumonia as probable source with concurrent
   hypovolemia due to poor PO intake.  Patient was addressed with River
   Early Goal Directed Therapy. Admisison lactate was not obtained in ED.
   APACHE IV score was  114 with a predicted mortality of 77%.
   Currently on Dopamine, Levophed, and Vasopressin for BP control.
   Patient with a mixed venous sat of 93.  lactate not drawn on initial
   labs.  This does not appear consistent with acute MI or PE. Rivers
   goals of care are CVP 8-12, Hct 30, MAP >60, Mixed venous sat of < 70%.
   Patient has been given total of 14L of fluid so far, continues to have
   no urine output.
   - Patient was treated with vanc/ctx/aztro, since patient is being
   started on CVVH, switching CTX to Zosyn. No need to double cover gram
   negative because of low prob pseudomonas.
   - f/u Legionella urinary Ag
   - Follow culture data
   - r/o flu, continue droplet precautions in the mean time
   - will continue to wean pressors as tolerated to maintain MAP >60
   - goal is to decrease sedation
   - will discuss possibility of starting Xirgis (APC), caution given CVVH
   line placement and INR from hepatic synthetic dysfx, CVVH also
   contraindication
   Hypoxic respiratory failure: Likely due to pulmonary infiltrates.
   Patient with elevated WBC counts and infiltrates on CXR. Consider ARDS
   given CXR.  Initial ABG on 16*500  fi02 100%  7.08/45/89/14 suggestive
   of a metabolica acidosis without appropriate respiratory compensation.
   Will increase rate and decrease tidal volume.  Also decrease FiO2.
   - placed A-line
   - Goal pH > 7.20
   - patient has metabolic acidosis, from renal failure, not lactic
   acidosis, hyperventilating patient to have compensatory resp alkalosis
   - decreasing FiO2 from 60 and increasing PEEP from 5, patient has ARDS
   criteria with P/F ratio of <200, PEEP will be carefully monitored to
   ensure PEEP does not contribute to hypotension
   Coagulopathy: due to shock liver, platlets stable, no evidence of DIC.
   -          Trend LFTs
   -          - Given CVVH, checking coags Q8H
   Transaminitis: Likely due to shock liver in setting of distributive
   picture with decreased EF.
   - Trend LFTs
   - Trend [**Doctor First Name 429**]/Lip
   CV: this does not appear to be ACS, although CK markedly elevated.
   Most likely due to strain in setting of hypovolemia.  Patient without
   EKG changes and anticipate increased Tn.
   CAD: CABG [**2146**] with multiple PCI.  Continue ASA, statin, hold BB given
   sepsis.
   PUMP: EF 29%.  Normotensive on Neosynephrine, Dopamine & Vasopressin.
   Keep MAP > 65 and titrate off with Neosynephrine then Dopamine then
   Vasopressin as tolerated.
   RHYTHM: CHB s/p DDD PCM,ICD in [**2160**]. Not on Warfarin.
   -          Maintain on telemetry
   -          Will continue to wean pressors as tolerated to MAP >60
   Anuric, acute on chronic ARF/Uremia: Baseline Cr 2.3.  Current ARF
   likely due to acute tubular necrosis in setting of hypotension.
   Patient with high normal CVP and MAPs > 65. Given elevated CK,
   possibility of myoglobinuria, but not consistent with UA findings.
   -          CVVH through L femoral line being placed now
   -          Hypocalcemia worsened by pancreatitis
   Hypoalbuminemia: decreased in the setting of sepsis
   -          Will discuss nutrition, possibly TPN in am.
   PPx
 Hep SQ, PPI IV
   Family
 family meeting done today, family understands prognosis,
   patient has documented advanced directives
   - SW C/s
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2167-3-17**] 10:12 PM
   Multi Lumen - [**2167-3-17**] 10:15 PM
   Arterial Line - [**2167-3-17**] 10:31 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2167-03-21 10:49:00 Physician Attending Progress Note
Chief Complaint: Acute respiratory failure, acute renal failure,
   pneumonia, hypotension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Continues to requires vasorpressors. Oxygenation marginally improved.
   On PEEP=10.  Still on CVVH.
   LFTs improving. RUQ ultrasound unchanged from [**2163**], common bile duct
   dilatation. WBC up to 50,000.
   24 Hour Events:
   History obtained from Medical records
   Patient unable to provide history: Sedated, intubated
   Allergies:
   Cholestyramine
   ?erectile dysfc
   Niacin
   Hepatic toxicit
   Iodine; Iodine Containing
   Rash;
   Ciprofloxacin
   muscle weakness
   Last dose of Antibiotics:
   Azithromycin - [**2167-3-20**] 05:11 PM
   Piperacillin/Tazobactam (Zosyn) - [**2167-3-21**] 06:00 AM
   Vancomycin - [**2167-3-21**] 08:00 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl - 40 mcg/hour
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   KCl (CRRT) - 2 mEq./hour
   Vasopressin - 2.4 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2167-3-21**] 08:17 AM
   Heparin Sodium (Prophylaxis) - [**2167-3-21**] 08:17 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-3-21**] 10:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.4
C (97.6
   HR: 60 (60 - 69) bpm
   BP: 120/51(71) {102/44(61) - 142/56(83)} mmHg
   RR: 23 (8 - 25) insp/min
   SpO2: 99%
   Heart rhythm: AV Paced
   Height: 64 Inch
   CVP: 5 (0 - 18)mmHg
   Total In:
                                                                  3,406 mL
                                                                  2,015 mL
   PO:
   TF:
                                                                     85 mL
                                                                     50 mL
   IVF:
                                                                  3,282 mL
                                                                  1,805 mL
   Blood products:
   Total out:
                                                                  4,020 mL
                                                                  1,585 mL
   Urine:
                                                                    120 mL
                                                                     39 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -614 mL
                                                                    430 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 25 cmH2O
   Plateau: 25 cmH2O
   SpO2: 99%
   ABG: 7.35/39/125/20/-3
   Ve: 8.7 L/min
   PaO2 / FiO2: 250
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic, Sedated
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, No(t) NG
   tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: No(t) Normal, Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: Clear : Anterior and lateral, No(t) Crackles : , No(t)
   Bronchial: , No(t) Wheezes : , No(t) Diminished: , No(t) Absent : ,
   No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, No(t) Bowel sounds present, No(t)
   Distended, No(t) Tender: , Obese
   Extremities: Right: Trace edema, Left: Trace, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Unresponsive, No(t) Oriented (to): , Movement: Not assessed,
   Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   10.7 g/dL
   203 K/uL
   128 mg/dL
   1.4 mg/dL
   20 mEq/L
   4.3 mEq/L
   26 mg/dL
   105 mEq/L
   133 mEq/L
   31.3 %
   55.5 K/uL
        [image002.jpg]
                             [**2167-3-20**]  06:40 AM
                             [**2167-3-20**]  07:28 AM
                             [**2167-3-20**]  11:42 AM
                             [**2167-3-20**]  11:52 AM
                             [**2167-3-20**]  05:15 PM
                             [**2167-3-20**]  05:17 PM
                             [**2167-3-20**]  11:43 PM
                             [**2167-3-20**]  11:50 PM
                             [**2167-3-21**]  05:37 AM
                             [**2167-3-21**]  05:49 AM
   WBC
   38.9
   55.5
   Hct
   31.3
   Plt
   203
   Cr
   1.6
   1.4
   TCO2
   23
   25
   28
   24
   21
   22
   Glucose
   88
   151
   121
   128
   Other labs: PT / PTT / INR:21.0/57.6/2.0, CK / CKMB /
   Troponin-T:522/9/0.08, ALT / AST:345/321, Alk Phos / T Bili:247/12.4,
   Amylase / Lipase:64/78, Differential-Neuts:96.1 %, Lymph:2.5 %,
   Mono:1.2 %, Eos:0.0 %, Fibrinogen:457 mg/dL, Lactic Acid:1.3 mmol/L,
   Albumin:2.5 g/dL, LDH:482 IU/L, Ca++:7.4 mg/dL, Mg++:2.3 mg/dL, PO4:2.1
   mg/dL
   Assessment and Plan
 MALNUTRITION
 HYPERGLYCEMIA
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name **])
   HYPOTENSION
   Patient remains hypotensive on vasopressors. On rounds we reduced PEEP.
   CVP only [**6-17**] on PEEP 10 and there is significant respiratory variation
   consistent with volume depletion. Will give additional fluids as well.
   Patient remains on antibiotics. WBC climbing. Has been hypothermic.
   Check differential count. Consider Chest/Abd CT to look for loculated
   effusion and/or abscess. Check CDiff
   Continues on CVVH. Electrolytes acceptable. Mild non-gap acidosis. If
   fluids given, consider D5W with 3 amps of bicarb to avoid worsening
   non-gap acidosis.
   ICU Care
   Nutrition: Tube feeds
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2167-3-17**] 10:15 PM
   Arterial Line - [**2167-3-17**] 10:31 PM
   Dialysis Catheter - [**2167-3-18**] 09:57 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent:
   Patient is critically ill

2167-03-22 12:31:00 Physician Attending Progress Note
Chief Complaint: Hypotension, respiratory failure, acute renal failure.
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Weaned off pressors yesterday with additional fluids.
   Placed on PSV yesterday as well.
   Febrile again last night. Recultured. WBC down today.
   Sedation stopped. Has not yet awakened.  LFT's trending downward.
   24 Hour Events:
 BLOOD CULTURED - At [**2167-3-22**] 03:50 AM
 SPUTUM CULTURE - At [**2167-3-22**] 03:50 AM
 URINE CULTURE - At [**2167-3-22**] 03:50 AM
 FEVER - 101.2
F - [**2167-3-22**] 03:00 AM
   History obtained from Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   Cholestyramine
   ?erectile dysfc
   Niacin
   Hepatic toxicit
   Iodine; Iodine Containing
   Rash;
   Ciprofloxacin
   muscle weakness
   Last dose of Antibiotics:
   Azithromycin - [**2167-3-21**] 06:22 PM
   Piperacillin/Tazobactam (Zosyn) - [**2167-3-21**] 11:19 PM
   Vancomycin - [**2167-3-22**] 09:23 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2167-3-22**] 07:31 AM
   Heparin Sodium (Prophylaxis) - [**2167-3-22**] 07:32 AM
   Other medications:
   chlorhexidine,colace, insulin, reglan
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-3-22**] 12:29 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.2
   Tcurrent: 37.1
C (98.8
   HR: 87 (61 - 102) bpm
   BP: 121/51(73) {91/34(50) - 165/77(105)} mmHg
   RR: 30 (18 - 32) insp/min
   SpO2: 94%
   Heart rhythm: AV Paced
   Height: 64 Inch
   CVP: 6 (6 - 15)mmHg
   Total In:
                                                                  6,830 mL
                                                                  1,228 mL
   PO:
   TF:
                                                                     50 mL
                                                                    122 mL
   IVF:
                                                                  6,580 mL
                                                                    907 mL
   Blood products:
   Total out:
                                                                  4,105 mL
                                                                     85 mL
   Urine:
                                                                     77 mL
                                                                     85 mL
   NG:
                                                                    230 mL
   Stool:
   Drains:
   Balance:
                                                                  2,725 mL
                                                                  1,143 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 435 (424 - 514) mL
   PS : 10 cmH2O
   RR (Set): 24
   RR (Spontaneous): 28
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 78
   PIP: 16 cmH2O
   SpO2: 94%
   ABG: 7.43/33/63/23/0
   Ve: 11.1 L/min
   PaO2 / FiO2: 126
   Physical Examination
   General Appearance: Well nourished, No acute distress, No(t) Overweight
   / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, No(t) NG
   tube, OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: No(t) Normal, Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic), Very soft heart sounds
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: No(t) Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , Rhonchorous: Diffuse
   coarse large airway sounds)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: 1+ edema, Left: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Unresponsive, Movement: No spontaneous movement, No(t) Sedated,
   No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   9.8 g/dL
   151 K/uL
   79 mg/dL
   1.6 mg/dL
   23 mEq/L
   4.6 mEq/L
   25 mg/dL
   106 mEq/L
   133 mEq/L
   27.7 %
   33.6 K/uL
        [image002.jpg]
                             [**2167-3-20**]  11:50 PM
                             [**2167-3-21**]  05:37 AM
                             [**2167-3-21**]  05:49 AM
                             [**2167-3-21**]  11:20 AM
                             [**2167-3-21**]  11:27 AM
                             [**2167-3-21**]  04:35 PM
                             [**2167-3-21**]  04:42 PM
                             [**2167-3-21**]  06:27 PM
                             [**2167-3-22**]  03:04 AM
                             [**2167-3-22**]  03:10 AM
   WBC
   55.5
   37.2
   33.6
   Hct
   31.3
   27.2
   27.7
   Plt
   [**Telephone/Fax (3) 7980**]
   Cr
   1.4
   1.2
   1.5
   1.6
   TCO2
   21
   22
   19
   21
   21
   23
   Glucose
   128
   154
   79
   Other labs: PT / PTT / INR:20.5/84.8/1.9, CK / CKMB /
   Troponin-T:522/9/0.08, ALT / AST:274/237, Alk Phos / T Bili:205/11.2,
   Amylase / Lipase:45/47, Differential-Neuts:94.0 %, Band:0.0 %,
   Lymph:0.0 %, Mono:6.0 %, Eos:0.0 %, Fibrinogen:457 mg/dL, Lactic
   Acid:1.5 mmol/L, Albumin:2.5 g/dL, LDH:321 IU/L, Ca++:7.8 mg/dL,
   Mg++:2.6 mg/dL, PO4:1.6 mg/dL
   Imaging: CXR: density at left base, unchanged. Slight patchy infiltrate
   at right base.
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 MALNUTRITION
 HYPERGLYCEMIA
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name **])
   Blood pressure much improved off PEEP and with additional fluids.
   Respiratory status doing better. Now on PSV. Still rhonchorus with
   mildly thick secretions. Continues to require moderate oxygen.
   Mental status still depressed. [**Month (only) 60**] have stores of sedatives in system
   given his liver dysfunction. Will start lactulose as well to treat
   possible hepatic encephalopathy.
   CVVH stopped. Monitor to see if urine output picks up. Electrolytes
   acceptable.
   ICU Care
   Nutrition:
   Vivonex (Full) - [**2167-3-22**] 12:00 AM 10 mL/hour
   Glycemic Control:  Insulin infusion
   Lines:
   Multi Lumen - [**2167-3-17**] 10:15 PM
   Arterial Line - [**2167-3-17**] 10:31 PM
   Dialysis Catheter - [**2167-3-18**] 09:57 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2167-03-24 20:32:00 Physician Resident Progress Note
EVENT NOTE: Discussion of goals of care
   24 Hour Events:
 FEVER - 103.0
F - [**2167-3-23**] 09:00 PM
   I had an extensive discussion with family regarding Mr. [**Known lastname **]
   prognosis and current development of worsening hypoxic respiratory
   failure. Furthermore, he has not made much progress in terms of mental
   status. The family has always made it very clear that Mr. [**Known lastname **] would
   not wish to remain in a prolonged state of being vent dependent. The
   strongly emphasized that he would wish to have an independent quality
   of life over duration. At this point, the family has made him DNR with
   no further escalation of current care. If after 24-36 hrs he has not
   shown any signs of improvement in respiratory status and mental status,
   then they would proceed with CMO.
   Allergies:
   Cholestyramine
   ?erectile dysfc
   Niacin
   Hepatic toxicit
   Iodine; Iodine Containing
   Rash;
   Ciprofloxacin
   muscle weakness
   Last dose of Antibiotics:
   Vancomycin - [**2167-3-22**] 09:23 AM
   Piperacillin - [**2167-3-23**] 12:57 PM
   Piperacillin/Tazobactam (Zosyn) - [**2167-3-24**] 12:37 AM
   Infusions:
   Propofol - 3 mcg/Kg/min
   Other ICU medications:
   Midazolam (Versed) - [**2167-3-23**] 11:00 PM
   Heparin Sodium (Prophylaxis) - [**2167-3-24**] 12:14 AM
   Other medications:
   g

2167-04-04 11:40:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   trach and g-tube following pna/sepsis, new renal failure
   then VAP
   24 Hour Events:
 OR SENT - At [**2167-4-3**] 09:59 AM
 OR RECEIVED - At [**2167-4-3**] 11:12 AM
   Patient unable to provide history: on vent
   Allergies:
   Cholestyramine
   ?erectile dysfc
   Niacin
   Hepatic toxicit
   Iodine; Iodine Containing
   Rash;
   Ciprofloxacin
   muscle weakness
   Last dose of Antibiotics:
   Meropenem - [**2167-4-1**] 04:00 PM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2167-4-4**] 12:22 AM
   Heparin Sodium (Prophylaxis) - [**2167-4-4**] 08:40 AM
   Pantoprazole (Protonix) - [**2167-4-4**] 10:00 AM
   Other medications:
   Changes to medical and family history:
   unable to receive HD yesterday
   open g-tube yesterday
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-4-4**] 11:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.2
C (97.1
   HR: 85 (71 - 110) bpm
   BP: 104/64(73) {85/42(56) - 136/82(88)} mmHg
   RR: 28 (6 - 37) insp/min
   SpO2: 100%
   Heart rhythm: V Paced
   Height: 64 Inch
             Total In:
                                                                  1,344 mL
                                                                    495 mL
   PO:
             TF:
                                                                      1 mL
   IVF:
                                                                    541 mL
                                                                    365 mL
   Blood products:
                                                                    592 mL
   Total out:
                                                                    140 mL
                                                                    944 mL
   Urine:
                                                                    140 mL
                                                                     94 mL
   NG:
   50 mL
   Stool:
   Drains:
   Balance:
                                                                  1,204 mL
                                                                   -449 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 419 (419 - 419) mL
   PS : 12 cmH2O
   RR (Set): 18
   RR (Spontaneous): 27
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 225
   PIP: 18 cmH2O
   Plateau: 9 cmH2O
   Compliance: 100 cmH2O/mL
   SpO2: 100%
   ABG: ///25/
   Ve: 14.1 L/min
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Diminished: )
   Extremities: Right: 3+, Left: 3+ edema
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   7.7 g/dL
   293 K/uL
   72 mg/dL
   5.1 mg/dL
   25 mEq/L
   3.9 mEq/L
   60 mg/dL
   111 mEq/L
   146 mEq/L
   24.2 %
   7.6 K/uL
        [image002.jpg]
                             [**2167-3-28**]  07:30 PM
                             [**2167-3-29**]  02:32 AM
                             [**2167-3-30**]  02:35 AM
                             [**2167-3-31**]  03:47 AM
                             [**2167-3-31**]  08:36 AM
                             [**2167-3-31**]  10:58 PM
                             [**2167-4-1**]  03:02 AM
                             [**2167-4-2**]  04:04 AM
                             [**2167-4-3**]  03:21 AM
                             [**2167-4-4**]  03:09 AM
   WBC
   16.8
   11.1
   6.6
   8.1
   9.9
   8.8
   7.6
   Hct
   23.0
   21.9
   19.4
   17.2
   19.6
   21.5
   20.1
   21.0
   24.2
   24.2
   Plt
   [**Telephone/Fax (3) 8135**]67
   421
   426
   293
   Cr
   2.8
   3.8
   4.7
   3.3
   4.1
   4.8
   5.1
   Glucose
   104
   85
   92
   84
   61
   104
   72
   Other labs: PT / PTT / INR:18.5/45.1/1.7, CK / CKMB /
   Troponin-T:522/9/0.08, ALT / AST:60/73, Alk Phos / T Bili:211/2.3,
   Amylase / Lipase:60/49, Differential-Neuts:90.0 %, Band:2.0 %,
   Lymph:1.0 %, Mono:5.0 %, Eos:0.0 %, Fibrinogen:457 mg/dL, Lactic
   Acid:1.4 mmol/L, Albumin:2.0 g/dL, LDH:437 IU/L, Ca++:8.1 mg/dL,
   Mg++:1.9 mg/dL, PO4:6.3 mg/dL
   Fluid analysis / Other labs: 7.37/44 VBG
   Assessment and Plan
 MUSCLE PERFORMACE, IMPAIRED - remains weak though able to move all
   extremities
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE) - continue HD
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name **]),
   respiratory failure - stable on vent, wean O2 and PS with goal of trach
   mask
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2167-3-31**] 04:33 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2167-04-11 12:32:00 Physician Attending Progress Note
Chief Complaint: respiratory failure, septic shock.
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   82 yo man originally admitted with CAP, severe systolic HF, acute renal
   failure..  Improved, but developed VAP, got Trach.  This past week was
   off vent, but then became worse with C. diff+, HOTN, requiring CVVHD.
   Off pressors since this morning
   24 Hour Events:
 ARTERIAL LINE - START [**2167-4-11**] 02:15 AM
   Allergies:
   Cholestyramine
   ?erectile dysfc
   Niacin
   Hepatic toxicit
   Iodine; Iodine Containing
   Rash;
   Ciprofloxacin
   muscle weakness
   Last dose of Antibiotics:
   Piperacillin - [**2167-4-8**] 11:11 PM
   Vancomycin - [**2167-4-8**] 11:45 PM
   Piperacillin/Tazobactam (Zosyn) - [**2167-4-10**] 12:00 PM
   Meropenem - [**2167-4-10**] 12:40 PM
   Metronidazole - [**2167-4-11**] 06:01 AM
   Infusions:
   KCl (CRRT) - 3 mEq./hour
   Other ICU medications:
   Other medications:
   po vanco
   meropenem
   flagyl
   olanzipine
   colace
   prevacid
   sevelamer
   hep s/q
   avastin
   ASA
   folate
   vitamin K
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-4-11**] 12:30 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 35.8
C (96.4
   HR: 83 (75 - 95) bpm
   BP: 94/87(91) {80/44(55) - 125/87(91)} mmHg
   RR: 32 (14 - 32) insp/min
   SpO2: 100%
   Heart rhythm: V Paced
   Height: 64 Inch
             Total In:
                                                                  2,523 mL
                                                                  1,456 mL
   PO:
             TF:
                                                                    665 mL
                                                                    189 mL
   IVF:
                                                                  1,358 mL
                                                                  1,037 mL
   Blood products:
                                                                    260 mL
   Total out:
                                                                    758 mL
                                                                    316 mL
   Urine:
                                                                     58 mL
   NG:
   Stool:
                                                                    700 mL
   Drains:
   Balance:
                                                                  1,765 mL
                                                                  1,140 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 490 (490 - 490) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   PIP: 28 cmH2O
   Plateau: 24 cmH2O
   Compliance: 35.7 cmH2O/mL
   SpO2: 100%
   ABG: 7.50/26/120/18/0
   Ve: 18.4 L/min
   PaO2 / FiO2: 300
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 4+, Left: 4+
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   8.0 g/dL
   203 K/uL
   121 mg/dL
   5.8 mg/dL
   18 mEq/L
   3.7 mEq/L
   76 mg/dL
   105 mEq/L
   137 mEq/L
   24.4 %
   16.7 K/uL
        [image002.jpg]
                             [**2167-4-8**]  10:00 AM
                             [**2167-4-8**]  11:36 PM
                             [**2167-4-9**]  03:00 AM
                             [**2167-4-10**]  03:00 AM
                             [**2167-4-10**]  02:43 PM
                             [**2167-4-10**]  06:20 PM
                             [**2167-4-11**]  02:55 AM
                             [**2167-4-11**]  02:57 AM
                             [**2167-4-11**]  08:24 AM
                             [**2167-4-11**]  08:37 AM
   WBC
   13.8
   27.7
   22.2
   19.8
   16.7
   Hct
   18.7
   19.3
   20.6
   25.7
   24.4
   Plt
   [**Telephone/Fax (3) 8259**]58
   203
   Cr
   4.9
   5.7
   6.1
   6.0
   5.8
   TCO2
   27
   21
   21
   Glucose
   83
   132
   116
   102
   121
   Other labs: PT / PTT / INR:21.1/43.9/2.0, CK / CKMB /
   Troponin-T:522/9/0.08, ALT / AST:13/41, Alk Phos / T Bili:90/1.5,
   Amylase / Lipase:93/73, Differential-Neuts:81.1 %, Band:0.0 %,
   Lymph:15.0 %, Mono:3.2 %, Eos:0.3 %, Fibrinogen:457 mg/dL, Lactic
   Acid:1.8 mmol/L, Albumin:2.0 g/dL, LDH:424 IU/L, Ca++:7.8 mg/dL,
   Mg++:2.0 mg/dL, PO4:5.0 mg/dL
   Assessment and Plan
   Septic shock:  improved off pressors.
   c. diff:  continue flagy and vanco.
   VAP: Klebsiella is pan sensitive so will change [**Last Name (un) 430**] to CTX.
   acute renal failure:  on CVVH, continue to run slightly negative.
   respiratory failure:  Can reduce  PEEP, if stable can also try to
   switch to PSV.
   anemia:  hct stable.  start epo.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2167-3-31**] 04:33 PM
   Arterial Line - [**2167-4-11**] 02:15 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2167-04-12 11:15:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   82 yo man with severe CHF, VAP, respiratory failure.  Some HOTN
   yesterday requiring IVF bolus.  Switched to PSV and tolerated well.
   Remains off pressors.  Switched to CTX for klebsiella in sputum from
   meropenem
   24 Hour Events:
   Allergies:
   Cholestyramine
   ?erectile dysfc
   Niacin
   Hepatic toxicit
   Iodine; Iodine Containing
   Rash;
   Ciprofloxacin
   muscle weakness
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2167-4-10**] 12:00 PM
   Meropenem - [**2167-4-11**] 12:09 PM
   Ceftriaxone - [**2167-4-11**] 02:43 PM
   Metronidazole - [**2167-4-12**] 05:30 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2167-4-11**] 08:07 PM
   Morphine Sulfate - [**2167-4-11**] 09:18 PM
   Other medications:
   olanzipine
   sevalemer
   SSI
   ASA
   avastin
   folate
   MVI
   vitamin K
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-4-12**] 11:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.1
C (98.8
   HR: 90 (61 - 94) bpm
   BP: 72/36(50) {47/27(34) - 94/87(91)} mmHg
   RR: 29 (22 - 35) insp/min
   SpO2: 100%
   Heart rhythm: V Paced
   Height: 64 Inch
             Total In:
                                                                  6,243 mL
                                                                  3,319 mL
   PO:
             TF:
                                                                    433 mL
                                                                     78 mL
   IVF:
                                                                  5,470 mL
                                                                  3,151 mL
   Blood products:
   Total out:
                                                                  4,029 mL
                                                                  2,147 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,214 mL
                                                                  1,172 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 521 (402 - 521) mL
   PS : 18 cmH2O
   RR (Set): 14
   RR (Spontaneous): 33
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 107
   PIP: 21 cmH2O
   Plateau: 22 cmH2O
   Compliance: 18.1 cmH2O/mL
   SpO2: 100%
   ABG: 7.49/30/101/20/0
   Ve: 16.9 L/min
   PaO2 / FiO2: 253
   Physical Examination
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Diminished), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 3+, Left: 3+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.4 g/dL
   188 K/uL
   101 mg/dL
   3.4 mg/dL
   20 mEq/L
   5.6 mEq/L
   45 mg/dL
   106 mEq/L
   137 mEq/L
   22.4 %
   16.8 K/uL
        [image002.jpg]
                             [**2167-4-11**]  08:37 AM
                             [**2167-4-11**]  01:49 PM
                             [**2167-4-11**]  02:02 PM
                             [**2167-4-11**]  09:05 PM
                             [**2167-4-11**]  09:07 PM
                             [**2167-4-12**]  02:50 AM
                             [**2167-4-12**]  02:53 AM
                             [**2167-4-12**]  05:25 AM
                             [**2167-4-12**]  08:44 AM
                             [**2167-4-12**]  08:56 AM
   WBC
   16.8
   Hct
   22.4
   Plt
   188
   Cr
   4.7
   4.0
   3.4
   TCO2
   21
   21
   17
   17
   22
   23
   Glucose
   128
   108
   106
   101
   Other labs: PT / PTT / INR:21.3/45.3/2.0, CK / CKMB /
   Troponin-T:522/9/0.08, ALT / AST:13/41, Alk Phos / T Bili:90/1.5,
   Amylase / Lipase:93/73, Differential-Neuts:81.1 %, Band:0.0 %,
   Lymph:15.0 %, Mono:3.2 %, Eos:0.3 %, Fibrinogen:457 mg/dL, Lactic
   Acid:2.5 mmol/L, Albumin:2.0 g/dL, LDH:424 IU/L, Ca++:8.3 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   Septic and cardiogenic shock:  HOTNsive, unable to get fluid off.  Will
   start dopamine for improved cardiac contractility and try to get fluid
   off.
   CTX for klebsiella VAP.
   C. diff:  continue IV flagyl and po vanco
   Acute renal failure:  on CVVH, try and remove fluid.  Will hold off on
   tunneled catheter until off CVVH.
   high residuals on TFs:  will try erythromycin for improved motility.
   Respiratory failure:  On PSV ventilation, but will need more fluid off
   before he can wean more.
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2167-4-11**] 11:27 AM 15 mL/hour
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2167-3-31**] 04:33 PM
   Arterial Line - [**2167-4-11**] 02:15 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2167-04-25 12:11:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   82 yo man with dilated CM, CAP c/p respiratory failure, renal failure
   and severe shock.  Overnight has been on Vasopressin and required
   restart of levophed.  Has abdominal collection with GNR and fungus.
   Has T+G tube on CVVH.
   24 Hour Events:
   Allergies:
   Cholestyramine
   ?erectile dysfc
   Niacin
   Hepatic toxicit
   Iodine; Iodine Containing
   Rash;
   Ciprofloxacin
   muscle weakness
   Heparin Agents
   + HIT;
   Last dose of Antibiotics:
   Micafungin - [**2167-4-22**] 05:55 PM
   Vancomycin - [**2167-4-23**] 06:03 AM
   Fluconazole - [**2167-4-24**] 03:40 PM
   Cefipime - [**2167-4-25**] 01:00 AM
   Metronidazole - [**2167-4-25**] 04:01 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Norepinephrine - 0.04 mcg/Kg/min
   Other ICU medications:
   Morphine Sulfate - [**2167-4-25**] 05:15 AM
   Hydromorphone (Dilaudid) - [**2167-4-25**] 06:30 AM
   Pantoprazole (Protonix) - [**2167-4-25**] 08:16 AM
   Other medications:
   midodrine po
   insulin
   asa
   lipitor
   colace
   vanco
   chlorhex
   epogen
   protonix
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-4-25**] 12:10 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.4
   Tcurrent: 35.1
C (95.1
   HR: 71 (65 - 110) bpm
   BP: 104/47(60) {87/33(45) - 144/69(94)} mmHg
   RR: 20 (18 - 33) insp/min
   SpO2: 100%
   Heart rhythm: AV Paced
   Height: 64 Inch
             Total In:
                                                                  9,649 mL
                                                                  4,735 mL
   PO:
             TF:
                                                                    840 mL
                                                                    414 mL
   IVF:
                                                                  8,299 mL
                                                                  3,991 mL
   Blood products:
   Total out:
                                                                 10,647 mL
                                                                  4,945 mL
   Urine:
   60 mL
   NG:
                                                                    170 mL
                                                                     40 mL
   Stool:
                                                                    180 mL
   Drains:
                                                                    120 mL
                                                                     25 mL
   Balance:
                                                                   -998 mL
                                                                   -210 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 508) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 23 cmH2O
   Plateau: 18 cmH2O
   SpO2: 100%
   ABG: ///19/
   Ve: 15.2 L/min
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: No(t) Bowel sounds present, Tender: RUQ and RLL
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: Unable to stand
   Skin:  Cool
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.2 g/dL
   61 K/uL
   149 mg/dL
   0.8 mg/dL
   19 mEq/L
   3.9 mEq/L
   13 mg/dL
   105 mEq/L
   137 mEq/L
   27.1 %
   13.0 K/uL
        [image002.jpg]
                             [**2167-4-23**]  12:43 PM
                             [**2167-4-23**]  06:42 PM
                             [**2167-4-24**]  12:50 AM
                             [**2167-4-24**]  01:50 AM
                             [**2167-4-24**]  06:26 AM
                             [**2167-4-24**]  12:50 PM
                             [**2167-4-24**]  06:45 PM
                             [**2167-4-24**]  11:16 PM
                             [**2167-4-25**]  05:05 AM
                             [**2167-4-25**]  06:24 AM
   WBC
   13.1
   11.9
   13.0
   Hct
   23.2
   24.7
   27.1
   Plt
   56
   61
   Cr
   1.8
   1.4
   1.3
   1.0
   0.8
   Glucose
   96
   222
   122
   112
   121
   154
   157
   135
   149
   Other labs: PT / PTT / INR:25.3/42.4/2.5, CK / CKMB /
   Troponin-T:522/9/0.08, ALT / AST:78/168, Alk Phos / T Bili:242/1.7,
   Amylase / Lipase:49/24, Differential-Neuts:86.0 %, Band:0.0 %,
   Lymph:8.0 %, Mono:6.0 %, Eos:0.0 %, Fibrinogen:122 mg/dL, Lactic
   Acid:2.8 mmol/L, Albumin:1.7 g/dL, LDH:407 IU/L, Ca++:9.3 mg/dL,
   Mg++:1.7 mg/dL, PO4:1.9 mg/dL
   Assessment and Plan
   Septic shock:  Still requiring VPA and pressors.
   respiratory failure:  PNA with ARDS and fluid overload.  Continue to
   try and remove fluid.
   Abdominal Pain:  new abdominal tenderness.  Could be cholangitis,
   peritonitis from abscess, hepatic abscess.  CT abdomen with contrast.
   Renal failure:  continues on CVVH
   anemia:  coombs+, difficult to transfuse.
   pf4 antibody positive but serotonin release assay negative.
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2167-4-25**] 01:51 AM 35 mL/hour
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2167-4-14**] 02:43 PM
   PICC Line - [**2167-4-20**] 03:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2167-04-26 09:50:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   82 yo man with multiorgan system failure.
   24 Hour Events:
   Yesterday with abdominal pain.  Abd Ct.  yesterday showed improved size
   of abscess, with hepatic and splenic attenuations unchanged.
   Allergies:
   Cholestyramine
   ?erectile dysfc
   Niacin
   Hepatic toxicit
   Iodine; Iodine Containing
   Rash;
   Ciprofloxacin
   muscle weakness
   Heparin Agents
   + HIT;
   Last dose of Antibiotics:
   Fluconazole - [**2167-4-25**] 04:30 PM
   Cefipime - [**2167-4-26**] 02:04 AM
   Metronidazole - [**2167-4-26**] 04:01 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Norepinephrine - 0.06 mcg/Kg/min
   Other ICU medications:
   Fentanyl - [**2167-4-25**] 08:42 PM
   Pantoprazole (Protonix) - [**2167-4-26**] 07:35 AM
   Other medications:
   SSI
   chlorhexadin
   epogen
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-4-26**] 09:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36
C (96.8
   Tcurrent: 35.8
C (96.4
   HR: 77 (66 - 105) bpm
   BP: 109/60(67) {67/27(40) - 200/125(144)} mmHg
   RR: 23 (18 - 34) insp/min
   SpO2: 98%
   Heart rhythm: AV Paced
   Height: 64 Inch
             Total In:
                                                                  8,821 mL
                                                                  2,737 mL
   PO:
             TF:
                                                                    441 mL
   IVF:
                                                                  7,075 mL
                                                                  2,737 mL
   Blood products:
   Total out:
                                                                  8,634 mL
                                                                  2,841 mL
   Urine:
                                                                     60 mL
   NG:
                                                                    220 mL
   Stool:
   Drains:
                                                                     55 mL
   Balance:
                                                                    187 mL
                                                                   -104 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 21 cmH2O
   Plateau: 20 cmH2O
   SpO2: 98%
   ABG: ///22/
   Ve: 17.4 L/min
   Physical Examination
   General Appearance: No acute distress, Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, Tender: RUQ
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.8 g/dL
   56 K/uL
   168 mg/dL
   0.8 mg/dL
   22 mEq/L
   4.2 mEq/L
   9 mg/dL
   102 mEq/L
   135 mEq/L
   25.7 %
   15.1 K/uL
        [image002.jpg]
                             [**2167-4-24**]  06:26 AM
                             [**2167-4-24**]  12:50 PM
                             [**2167-4-24**]  06:45 PM
                             [**2167-4-24**]  11:16 PM
                             [**2167-4-25**]  05:05 AM
                             [**2167-4-25**]  06:24 AM
                             [**2167-4-25**]  12:30 PM
                             [**2167-4-25**]  04:00 PM
                             [**2167-4-25**]  09:18 PM
                             [**2167-4-26**]  03:22 AM
   WBC
   11.9
   13.0
   13.5
   15.1
   Hct
   24.7
   27.1
   27.5
   25.7
   Plt
   61
   56
   Cr
   1.0
   0.8
   0.7
   0.8
   0.8
   Glucose
   121
   154
   157
   135
   149
   178
   98
   89
   168
   Other labs: PT / PTT / INR:26.2/48.7/2.6, CK / CKMB /
   Troponin-T:26/9/0.08, ALT / AST:76/142, Alk Phos / T Bili:222/1.9,
   Amylase / Lipase:49/24, Differential-Neuts:86.0 %, Band:0.0 %,
   Lymph:8.0 %, Mono:6.0 %, Eos:0.0 %, Fibrinogen:194 mg/dL, Lactic
   Acid:2.8 mmol/L, Albumin:1.8 g/dL, LDH:390 IU/L, Ca++:9.4 mg/dL,
   Mg++:1.9 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   Abdominal pain:  may be due to small abscesses in liver and spleen, as
   main abscess is actually getting better.  In setting of increased LFTs
   and possibly worsening abscesses, will
   ask ID if change should be made to caspofungin.  Will recheck blood cx.
   ?Candidemia - given asbcesses
   Respiratory failure:  was on PSV trial yesterday and did not fair
   well.  Will try again today.
   Renal failure/CVVH:  Might try off CVVH and see if he tolerates
   intermittent HD.
   Pressor requirement:  still requiring pressors, ?maybe able to come off
   if off CVVH
   ICU Care
   Nutrition:
   Comments: retry TFs
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2167-4-14**] 02:43 PM
   PICC Line - [**2167-4-20**] 03:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2167-04-28 11:18:00 Physician Attending Progress Note
Chief Complaint: Sepsis
   Respiratory Failure
   Renal Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2167-4-27**] 03:00 PM
   -Paitent with PSV trial yesterday with tolerance for 6 hours
   -Patient with pacer rate increase to 90 bpm
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Cholestyramine
   ?erectile dysfc
   Niacin
   Hepatic toxicit
   Iodine; Iodine Containing
   Rash;
   Ciprofloxacin
   muscle weakness
   Heparin Agents
   + HIT;
   Last dose of Antibiotics:
   Cefipime - [**2167-4-27**] 01:54 AM
   Metronidazole - [**2167-4-27**] 12:15 PM
   Fluconazole - [**2167-4-27**] 04:00 PM
   Meropenem - [**2167-4-28**] 02:11 AM
   Vancomycin - [**2167-4-28**] 06:00 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2167-4-28**] 02:30 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Flowsheet Data as of  [**2167-4-28**] 11:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 35.7
C (96.2
   HR: 90 (77 - 90) bpm
   BP: 110/33(48) {81/29(44) - 133/76(85)} mmHg
   RR: 26 (17 - 30) insp/min
   SpO2: 100%
   Heart rhythm: AV Paced
   Height: 64 Inch
             Total In:
                                                                  2,328 mL
                                                                  1,059 mL
   PO:
             TF:
                                                                    788 mL
                                                                    386 mL
   IVF:
                                                                    780 mL
                                                                    174 mL
   Blood products:
   Total out:
                                                                  2,170 mL
                                                                     45 mL
   Urine:
   NG:
                                                                     20 mL
                                                                     45 mL
   Stool:
                                                                    150 mL
   Drains:
   Balance:
                                                                    158 mL
                                                                  1,014 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 395 (0 - 538) mL
   PS : 10 cmH2O
   RR (Set): 18
   RR (Spontaneous): 33
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 66
   PIP: 16 cmH2O
   Plateau: 16 cmH2O
   SpO2: 100%
   ABG: ///23/
   Ve: 10 L/min
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic, trach
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   6.8 g/dL
   35 K/uL
   128 mg/dL
   2.1 mg/dL
   23 mEq/L
   3.3 mEq/L
   39 mg/dL
   104 mEq/L
   138 mEq/L
   22.2 %
   10.0 K/uL
        [image002.jpg]
                             [**2167-4-25**]  04:00 PM
                             [**2167-4-25**]  09:18 PM
                             [**2167-4-26**]  03:22 AM
                             [**2167-4-26**]  10:00 AM
                             [**2167-4-26**]  09:01 PM
                             [**2167-4-27**]  04:13 AM
                             [**2167-4-27**]  06:53 AM
                             [**2167-4-27**]  02:58 PM
                             [**2167-4-28**]  03:40 AM
                             [**2167-4-28**]  04:36 AM
   WBC
   15.1
   10.8
   10.0
   Hct
   25.7
   22.6
   26.1
   22.2
   Plt
   56
   69
   35
   Cr
   0.8
   0.8
   1.2
   1.4
   2.1
   Glucose
   98
   89
   168
   154
   68
   101
   128
   Other labs: PT / PTT / INR:28.2/51.5/2.8, CK / CKMB /
   Troponin-T:26/9/0.08, ALT / AST:37/53, Alk Phos / T Bili:196/1.6,
   Amylase / Lipase:49/24, Differential-Neuts:86.0 %, Band:0.0 %,
   Lymph:8.0 %, Mono:6.0 %, Eos:0.0 %, Fibrinogen:290 mg/dL, Lactic
   Acid:2.4 mmol/L, Albumin:1.8 g/dL, LDH:281 IU/L, Ca++:7.9 mg/dL,
   Mg++:2.3 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
   82 yo male with initial admission with sepsis and now s/p trach/PEG
   with intra-abdominal collection under drainage but may in fact be
   driving in part sustained SIRS and hypotension with difficult to wean
   pressor support.  Patient does have severe impairment in cardiac
   function which may be contributing in addition to persistent
   compromise.  She with PSV trials for fixed duration has had continued
   good tolerance.  He has maintained reasonable mental status and
   participation throughout.
   1)Sepsis-
   -Flagyl/Vanco/Meropenem/Fluc
   -Levophed weaned to off
   -Will move to D/C Vasopressin today
   -Midodrine will be weaned to off next
   -ECHO results reassuring
   2)Respiratory Failure-Reasonable tolerance at this time of PSV
   limitations are likely motor weakness, however, he has been able to
   maintain adequate ventilation in the setting of significant pleural
   effusions.
   -PSV during the day
   -Full support overnight (may be in PSV at higher pressures as well)
   3)Abdominal Abscess-
   -Continue drainage
   -Continue antibiotics
   4)Renal Failure-
   -Continue with HD
   -[**Month (only) 60**] need pressor support during HD
   5)Coagulopathy-
   -Appreciate Heme input
   -Will provide FFP
   -Will continue to replace Vita K
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2167-4-28**] 12:38 AM 35 mL/hour
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2167-4-14**] 02:43 PM
   PICC Line - [**2167-4-20**] 03:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 40 minutes

2167-04-29 10:52:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   Sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   -Patient with plans for tunneled line this pm for dialysis
   -PSV trialed for 2 hours while in chair
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Cholestyramine
   ?erectile dysfc
   Niacin
   Hepatic toxicit
   Iodine; Iodine Containing
   Rash;
   Ciprofloxacin
   muscle weakness
   Heparin Agents
   + HIT;
   Last dose of Antibiotics:
   Cefipime - [**2167-4-27**] 01:54 AM
   Fluconazole - [**2167-4-27**] 04:00 PM
   Meropenem - [**2167-4-28**] 02:11 AM
   Vancomycin - [**2167-4-28**] 06:00 AM
   Metronidazole - [**2167-4-29**] 04:22 AM
   Infusions:
   Vasopressin - 0.8 units/hour
   Other ICU medications:
   Dextrose 50% - [**2167-4-29**] 05:58 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: Tachypnea
   Flowsheet Data as of  [**2167-4-29**] 10:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.1
C (96.9
   HR: 90 (90 - 100) bpm
   BP: 118/52(65) {71/36(47) - 123/57(72)} mmHg
   RR: 20 (16 - 34) insp/min
   SpO2: 100%
   Heart rhythm: AV Paced
   Height: 64 Inch
   Mixed Venous O2% Sat: 27 - 27
   Total In:
                                                                  1,792 mL
                                                                    695 mL
   PO:
   TF:
                                                                    849 mL
                                                                      9 mL
   IVF:
                                                                    304 mL
                                                                    107 mL
   Blood products:
                                                                    394 mL
   Total out:
                                                                    105 mL
                                                                    250 mL
   Urine:
   NG:
                                                                    105 mL
                                                                     25 mL
   Stool:
   Drains:
                                                                     25 mL
   Balance:
                                                                  1,687 mL
                                                                    445 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 265 (265 - 265) mL
   PS : 0 cmH2O
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 94
   PIP: 21 cmH2O
   Plateau: 17 cmH2O
   Compliance: 41.7 cmH2O/mL
   SpO2: 100%
   ABG: ///20/
   Ve: 9.8 L/min
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Trach
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   7.2 g/dL
   44 K/uL
   63 mg/dL
   2.6 mg/dL
   20 mEq/L
   3.7 mEq/L
   55 mg/dL
   107 mEq/L
   137 mEq/L
   23.8 %
   10.6 K/uL
        [image002.jpg]
                             [**2167-4-26**]  09:01 PM
                             [**2167-4-27**]  04:13 AM
                             [**2167-4-27**]  06:53 AM
                             [**2167-4-27**]  02:58 PM
                             [**2167-4-28**]  03:40 AM
                             [**2167-4-28**]  04:36 AM
                             [**2167-4-28**]  03:37 PM
                             [**2167-4-28**]  04:20 PM
                             [**2167-4-29**]  04:37 AM
                             [**2167-4-29**]  06:50 AM
   WBC
   10.8
   10.0
   10.6
   Hct
   22.6
   26.1
   22.2
   25.0
   23.8
   Plt
   69
   35
   37
   44
   Cr
   1.2
   1.4
   2.1
   2.6
   Glucose
   68
   101
   128
   63
   Other labs: PT / PTT / INR:28.1/46.6/2.8, CK / CKMB /
   Troponin-T:26/9/0.08, ALT / AST:34/47, Alk Phos / T Bili:249/1.5,
   Amylase / Lipase:49/24, Differential-Neuts:86.0 %, Band:0.0 %,
   Lymph:8.0 %, Mono:6.0 %, Eos:0.0 %, Fibrinogen:265 mg/dL, Lactic
   Acid:3.3 mmol/L, Albumin:1.8 g/dL, LDH:274 IU/L, Ca++:7.6 mg/dL,
   Mg++:2.2 mg/dL, PO4:4.1 mg/dL
   Fluid analysis / Other labs: 7.4/34/23--VBG
   Assessment and Plan
   82 yo male with evidence of persistent hypotension in the setting of
   both impared cardiac function and recent and slow to resolve sepsis.
   He did have some modest improvement with HR increase but not clearly
   durable across time.  In the setting of continued fluid removal with
   dialysis there has been some trend to improved tolerance of PSV.  The
   primary limiting factor does remain the persistent hypotension and
   intermittent requirement for vasopressor use.  He has had intermittent
   trials on PSV support but has been limited by tachypnea and what
   appears to be respiratory muscle fatigue.
   Respiratory Failure-
   -Will continue with nutrition support, OOB to chair, trial of PSV
   support
   -He has limiting factors of likely significant weakness as well as
   possible volume overload although this appears less dominant
   -PSV today x 2-4 hours total
   Hypotension-
   -Vanco/Flagyl/Meropenem
   -Vasopressin Continuing but will look to wean off
   -Maintain lactate monitoring, will need to consider a-line monitoring
   if unable to keep reliable measurements
   -Goal SBP at 90 will be reasonable minimum
   -Will restart digoxin today to aid with CO which appears to be
   contributing to persistent hypotension
   -IR to re-eval drain for function
   Renal Failure-Acute and Chronic-
   Epogen
   -Tunnel catheter today
   -Continue with HD
   -Baldder scans to continue and straight cath as needed
   ICU Care
   Nutrition: TF
s via J-tube
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Dialysis Catheter - [**2167-4-14**] 02:43 PM
   PICC Line - [**2167-4-20**] 03:00 PM
   Prophylaxis:
   DVT: boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 35 minutes